US06720338B2
4-(2-chloro-3-thienyl)-benzoic acid
Solid Pd(PPh3)4 (11.0 mg, 0.01 mmol) was treated with a room temperature solution of 2-bromo-5-chlorothiophene (143 mg, 0.72 mmol) in DME (4 mL), stirred for 5 minutes, treated with a solution of 4-(dihydroxyboryl)benzoic acid (100 mg, 0.60 mmol) in DME (2 mL), and stirred for 5 minutes. The mixture was treated with 2M Na2CO3 (1.5 mL, 3.0 mmol), heated to 75° C., stirred for 18 hours, cooled to room temperature, filtered, triturated with water (3 mL), and concentrated. The concentrate was treated with boiling water (4 mL), filtered through celite, cooled to room temperature, adjusted to pH<7 with HCl, and filtered to provide the desired product. MS (APCI(+)) m/e 239 (M+H)+.

reactant | 2-bromo-5-chlorothiophene | 0.72 mmol, 143 mg | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | 4-(dihydroxyboryl)benzoic acid | 0.60 mmol, 100 mg | OB(C1=CC=C(C(=O)O)C=C1)O | C7H7BO4
reactant | Na2CO3 | 3.0 mmol, 2M, 1.5 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DME | 4 mL | COCCOC | C4H10O2
solvent | DME | 2 mL | COCCOC | C4H10O2
catalyst | Pd(PPh3)4 | 0.01 mmol, 11.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 4-(2-chloro-3-thienyl)-benzoic acid | ClC=1SC=CC1C1=CC=C(C(=O)O)C=C1 | C11H7ClO2S
